US06809110B2
In analogy to the procedure described in example 10 d], [rac]-2-{2-methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzyl}-butyric acid ethyl ester was treated with 3 N NaOH to obtain [rac]-2-{2-methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzyl}-butyric acid as colorless solid.

reactant | [rac]-2-{2-methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzyl}-butyric acid ethyl ester | C(C)OC(C(CC)CC1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C26H28F3NO3S
reactant | NaOH | 3 N | [OH-].[Na+]
product | [rac]-2-{2-methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzyl}-butyric acid | CC1=C(CC(C(=O)O)CC)C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C24H24F3NO3S
